US06215019B1
FIG. 6 shows an alternative synthesis of 5-decenyl acetate, in which 1-hexene is reacted with 5-hexenoic acid in the presence of Grubbs' catalyst to produce 5-decenoic acid that can be recrystallized, reduced to an alcohol, and acetylated to yield a greater than 90% E-5-decenyl acetate.

reactant | 5-decenyl acetate | C(C)(=O)OCCCCC=CCCCC | C12H22O2
reactant | 1-hexene | C=CCCCC | C6H12
reactant | 5-hexenoic acid | C(CCCC=C)(=O)O | C6H10O2
catalyst | Grubbs' catalyst | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
product | 5-decenoic acid | C(CCCC=CCCCC)(=O)O | C10H18O2
